US05306728
Production of (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-5-[3-(3-thienyl)phenoxy]-4-oxopentylamine
50 mg of 5-bromo-1-[3-(3-thienyl)phenoxy]-2-pentanone was dissolved in 1.8 ml of dimethylformamide, and 125 mg of a (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride and 29 mg of potassium iodide were added. The mixture was stirred at 40° C. for 1 hour, and then ethyl ether and ice water were added. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [hexane→chloroform] to give 20 mg (yield 27%) of the captioned compound as a colorless oil.

reactant | 5-bromo-1-[3-(3-thienyl)phenoxy]-2-pentanone | 50 mg | BrCCCC(COC1=CC(=CC=C1)C1=CSC=C1)=O | C15H15BrO2S
reactant | (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | 125 mg | Cl.C(C)NC\C=C\C#CC(C)(C)C
reactant | potassium iodide | 29 mg | [I-].[K+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
product | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-5-[3-(3-thienyl)phenoxy]-4-oxopentylamine | 20 mg, yield 27% | C(C)N(C\C=C\C#CC(C)(C)C)CCCC(COC1=CC(=CC=C1)C1=CSC=C1)=O | C26H33NO2S
